US04515948
A mixture of 12 g. of 4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxycarbanilic acid ethyl ester and 2 g. of sodium hydride (50% dispersion in oil) in 100 ml. of absolute dimethylformamide was stirred at room temperature for 4 hours and then treated with 6.5 g. of ethyl iodide. After stirring at room temperature for 30 minutes, the dimethylformamide was removed at 60° C. under vacuum. The residue was taken up in 250 ml. of water and the precipitated product extracted with two 600 ml. portions of ethyl acetate. The ethyl acetate extract was washed with two 300 ml. portions of water, dried over magnesium sulfate and evaporated under vacuum. The residue was chromatographed on 350 g. of silica gel using ethyl acetate/alcohol (3:1) and there was obtained N-ethyl-4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxy-carbanilic acid ethyl ester having a melting point of 165°-167° C. (recrystallization from ethyl acetate).

reactant | 4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxycarbanilic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1OC)CC=1C(=NC(=NC1)N)N)OC)=O | C16H21N5O4
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-ethyl-4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxy-carbanilic acid ethyl ester | C(C)OC(N(C1=C(C=C(C=C1OC)CC=1C(=NC(=NC1)N)N)OC)CC)=O | C18H25N5O4
